US06057337
Octadecyl 2-{2-[N-[3-(dimethylamino)propyl]carbamoyloxy]ethyl}piperidinecarboxylate hydrochloride (Compound 13)
4N Hydrochloric acid/ethyl acetate solution (1.28 ml) was added to a solution of octadecyl 2-{2-[N-[3-(dimethylamino)propyl]carbamoyloxy]ethyl}piperidinecarboxylate (1.55 g) in ethyl acetate (5 ml). After being stirred for 15 minutes at room temperature, the reaction mixture was concentrated, thereby yielding the entitled compound (1.38 g) as white wax.

reactant | Hydrochloric acid ethyl acetate | 4N, 1.28 ml | Cl.C(C)(=O)OCC
reactant | octadecyl 2-{2-[N-[3-(dimethylamino)propyl]carbamoyloxy]ethyl}piperidinecarboxylate | 1.55 g | CN(CCCNC(=O)OCCC1N(CCCC1)C(=O)OCCCCCCCCCCCCCCCCCC)C | C32H63N3O4
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | Octadecyl 2-{2-[N-[3-(dimethylamino)propyl]carbamoyloxy]ethyl}piperidinecarboxylate hydrochloride | 1.38 g | Cl.CN(CCCNC(=O)OCCC1N(CCCC1)C(=O)OCCCCCCCCCCCCCCCCCC)C | InChI=1S/C32H63N3O4.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21-28-39-32(37)35-27-20-19-23-30(35)24-29-38-31(36)33-25-22-26-34(2)3;/h30H,4-29H2,1-3H3,(H,33,36);1H
